US04070531
108.8 grams of 2-hydroxyoctyl amine were dissolved in 500 ml of toluene, heated to reflux, treated within 10 minutes under stirring with 18.5 grams of glycidol and held at reflux for 2 hours. Subsequently, the solvent was drawn off and the excess amine distilled off in a vacuum. There were obtained as a residue 49.5 grams (90.5% of theory) of N-(2,3-dihydroxypropyl)-N-(2-hydroxyoctyl) amine which after recrystallization from ethylacetate gave colorless crystals having a melting point of 85°-90° C.

reactant | 2-hydroxyoctyl amine | 108.8 grams | OC(CN)CCCCCC | C8H19NO
reactant | glycidol | 18.5 grams | C1C(O1)CO | C3H6O2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,3-dihydroxypropyl)-N-(2-hydroxyoctyl) amine | 49.5 grams, 90.5% | OC(CNCC(CCCCCC)O)CO | C11H25NO3
